US05360806
Preparation of N-allyl-4-trifluoromethyl-3-pyridine carboxamide (Compound No. 22)
A solution of 0.26 g of 4-trifluoromethyl-3-pyridine carboxylic acid and 0.24 g of thionyl chloride in 10 ml of benzene was refluxed under heating for 30 minutes in the presence of a catalytic amount of dimethylformamide. Excess thionyl chloride and benzene were distilled off under reduced pressure. Then, the residue was dissolved in 15 ml of tetrahydrofuran. Then, 0.21 g of triethylamine and 0.12 g of allylamine were added thereto, and the mixture was stirred at room temperature for 20 hours. Then, the mixture was poured into an aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.21 g of the desired product (Compound No. 22) having a melting point of from 75.5° to 77° C.

reactant | 4-trifluoromethyl-3-pyridine carboxylic acid | 0.26 g | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | thionyl chloride | 0.24 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-allyl-4-trifluoromethyl-3-pyridine carboxamide | 0.21 g | C(C=C)NC(=O)C=1C=NC=CC1C(F)(F)F | C10H9F3N2O
